2183-02-22 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Distal peroneal artery perforation during right leg
   thrombectomy.
   24 Hour Events:
   No events overnight.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-2-22**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 81 (71 - 93) bpm
   BP: 150/52(77) {90/52(69) - 166/75(92)} mmHg
   RR: 23 (15 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    433 mL
                                                                     38 mL
   PO:
             TF:
   IVF:
                                                                    433 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    250 mL
   Urine:
                                                                    500 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -67 mL
                                                                   -213 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   GENERAL:  Elderly female lying in bed in NAD.  Alert and oriented to
   person, place, and time.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: No JVD
   CARDIAC: Faint heart sounds.  RRR, no MRG.
   LUNGS: Patient has a steri-strips  in place over her right upper chest
   where her pacemaker was placed.  She is breathing comfortably.  Lungs
   CTAB.
   ABDOMEN: + normoactive bowel sounds.  Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. No femoral bruits.  Right femoral area has a
   well-healing incision with staples in place.  There is a large old,
   bruise around the incision.  There is some tenderness over the
   incision.  Her right leg is covered with a pressure dressing.  Her left
   femoral area has a dressing in place with slight oozing of red blood.
   Right leg circumference at 34cm and stable.  Sensation intact.
   SKIN: Multiple ecchymoses on arms.
   PULSES:  DTs and PTs nonpalpable b/l.  Feet warm bilaterally.  DP pulse
   not dopplerable on right, DP on left and PT bilaterally dopplerable.
   Labs / Radiology
   330 K/uL
   11.0 g/dL
   122 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.8 mEq/L
   16 mg/dL
   108 mEq/L
   143 mEq/L
   33.7 %
   9.7 K/uL
        [image002.jpg]
                             [**2183-2-21**]  07:00 PM
                             [**2183-2-22**]  12:04 AM
                             [**2183-2-22**]  05:27 AM
   WBC
   9.7
   Hct
   35.7
   33.1
   33.7
   Plt
   [**Telephone/Fax (3) 13484**]
   Cr
   0.8
   0.9
   Glucose
   122
   Other labs: PT / PTT / INR:13.0/22.1/1.1, Ca++:9.1 mg/dL, Mg++:2.0
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Ms [**Known lastname 13471**] is a 85 year-old female with hypertension, PVD, complete
   block s/p pacemaker placement, and an ischemic right leg s/p
   thrombectomy and RLE angiogram complicated by a small perforation being
   monitored in the CCU for hematoma formation or possible compartment
   syndrome.
   # Ischemic R foot s/p thrombectomy and RLE angiogram with small
   performation: Vascular surgery has been consulted.  Her anticoagulation
   with heparin has been reversed with protamine.  Her initial Hct is
   stable at 35.7.  She denies any pain currently.
   - Active type and screen.
   - Immediate Hct check now and trend for q6h
   - Appreciate vascular surgery consult, will f/u recs.
   - Will monitor calf circumference and peripheral pulses q2h.
   - Hold off anticoagulation currently.
   - Continue plavix 75 mg po daily.
   # CORONARIES: Patient was reported to have elevated CEs at the OSH,
   however her CK here was normal and her trop was 0.03.  She has no
   history of chest pain, but does have severe PVD which makes the
   likelihood of CAD high.  She has had no previous catheterizations in
   our system.
   - Defer workup for possible CAD to primary [**Hospital1 1896**] team/outpatient setting
   once her acute situation has resolved.
   - Will continue the B-blocker and ASA which was started here by the
   [**Hospital1 1896**] team unless she has evidence of bleeding.
   # PUMP/Hypertension:  The patient appears euvolemic.
   - Continue home Amlodipine 5mg PO daily.
   - Will continue holding her home lasix for now.
   # RHYTHM: She had complete heart block s/p pacemaker placement.
   Admission EKG showed V-paced rhythm.
   - Monitor on telemetry.
   # Tobacco use:
   - Smoking cessation counceling.
   CONTACT: Daughter, [**Known firstname 1130**] [**Last Name (NamePattern1) 4863**] [**Telephone/Fax (1) 13472**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-2-21**] 06:15 PM
   Prophylaxis:
   DVT: none for now in setting of requiring monitoring of leg and right
   leg perforation.
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to [**Hospital1 1896**] team today.

2183-02-23 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No overnight events
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-2-23**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 73 (65 - 95) bpm
   BP: 124/46(66) {124/42(61) - 163/86(90)} mmHg
   RR: 19 (12 - 32) insp/min
   SpO2: 93%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 62 Inch
                  Total In:
                                                                    918 mL
                  PO:
                                                                    880 mL
                  TF:
   IVF:
                                                                     38 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    320 mL
   Urine:
                                                                  1,100 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -183 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   GENERAL:  Elderly female lying in bed in NAD.  Alert and oriented to
   person, place, and time.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: No JVD
   CARDIAC: Faint heart sounds.  RRR, no MRG.
   LUNGS: Patient has a steri-strips  in place over her right upper chest
   where her pacemaker was placed.  She is breathing comfortably.  Lungs
   CTAB.
   ABDOMEN: + normoactive bowel sounds.  Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. No femoral bruits.  Right femoral area has a
   well-healing incision with staples in place.  There is a large old,
   bruise around the incision.  There is some tenderness over the
   incision.  Her right leg is covered with a pressure dressing.  Her left
   femoral area has a dressing in place with slight oozing of red blood.
   Right leg circumference at 34cm and stable.  Sensation intact.
   SKIN: Multiple ecchymoses on arms.
   PULSES:  DTs and PTs nonpalpable b/l.  Feet warm bilaterally.  DP pulse
   not dopplerable on right, DP on left and PT bilaterally dopplerable.
   Labs / Radiology
   295 K/uL
   9.8 g/dL
   106 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.1 mEq/L
   24 mg/dL
   107 mEq/L
   141 mEq/L
   30.9 %
   8.2 K/uL
        [image002.jpg]
                             [**2183-2-21**]  07:00 PM
                             [**2183-2-22**]  12:04 AM
                             [**2183-2-22**]  05:27 AM
                             [**2183-2-22**]  01:09 PM
                             [**2183-2-22**]  09:33 PM
                             [**2183-2-23**]  03:45 AM
   WBC
   9.7
   8.2
   Hct
   35.7
   33.1
   33.7
   34.2
   34.7
   30.9
   Plt
   [**Telephone/Fax (3) 13527**]95
   Cr
   0.8
   0.9
   1.0
   Glucose
   122
   106
   Other labs: PT / PTT / INR:12.6/23.2/1.1, Ca++:9.0 mg/dL, Mg++:2.1
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Ms [**Known lastname 13471**] is a 85 year-old female with hypertension, PVD, complete
   block s/p pacemaker placement, and an ischemic right leg s/p
   thrombectomy and RLE angiogram complicated by a small perforation being
   monitored in the CCU for hematoma formation or possible compartment
   syndrome.
   # Ischemic R foot s/p thrombectomy and RLE angiogram with small
   performation: Vascular surgery has been consulted.  Her anticoagulation
   with heparin has been reversed with protamine.  Her initial Hct is
   stable at 35.7.  She denies any pain currently.
   - Active type and screen.
   - trend Hct for q6h
   - Appreciate vascular surgery consult, will f/u recs.
   - Will monitor calf circumference and peripheral pulses q2h.
   - Hold off anticoagulation currently.
   - Continue plavix 75 mg po daily.
   # CORONARIES: Patient was reported to have elevated CEs at the OSH,
   however her CK here was normal and her trop was 0.03.  She has no
   history of chest pain, but does have severe PVD which makes the
   likelihood of CAD high.  She has had no previous catheterizations in
   our system.
   - Defer workup for possible CAD to primary [**Hospital1 1896**] team/outpatient setting
   once her acute situation has resolved.
   - Will continue the B-blocker and ASA which was started here by the
   [**Hospital1 1896**] team unless she has evidence of bleeding.
   # PUMP/Hypertension:  The patient appears euvolemic.
   - Continue home Amlodipine 5mg PO daily.
   - Will continue holding her home lasix for now.
   # RHYTHM: She had complete heart block s/p pacemaker placement.
   Admission EKG showed V-paced rhythm.
   - Monitor on telemetry.
   # Tobacco use:
   - Smoking cessation counceling.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-2-21**] 06:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-02-24 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - increased metoprolol tartrate 25mg [**Hospital1 7**]
   - small Hct drop yesterday, rechecked and stable
   - complained of some leg pain yesterday- gave oxycodone which improved
   pain, no new signs of hemorrhage, pulses normal
   - no complaints of leg pain this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-2-24**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 71 (60 - 91) bpm
   BP: 150/60(82) {111/35(57) - 155/80(89)} mmHg
   RR: 20 (14 - 27) insp/min
   SpO2: 93%
   Heart rhythm: AV Paced
   Height: 62 Inch
                  Total In:
                                                                    710 mL
                                                                    270 mL
   PO:
                                                                    710 mL
                                                                    270 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    665 mL
                                                                    335 mL
   Urine:
                                                                    665 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     45 mL
                                                                    -65 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   GENERAL:  Elderly female lying in bed in NAD.  Alert and oriented to
   person, place, and time.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: No JVD
   CARDIAC: Faint heart sounds.  RRR, no MRG.
   LUNGS:  Lungs CTAB.
   ABDOMEN: + normoactive bowel sounds.  Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. No femoral bruits.  Right femoral area has a
   well-healing incision with staples in place with firmness around the
   site, unchanged.  Tender around hematoma and incision site, improved
   from yesterday.  Right leg circumference stable.  2^nd and 3^rd Right
   toes w decreased sensation on plantar surface, unchanged.  Good range
   of motion
   SKIN: Multiple ecchymoses on arms.   Large ecchymosis covering entire
   medial side of R thigh, larger than yesterday
   PULSES:  DTs and PTs nonpalpable b/l.  Feet warm bilaterally except for
   right foot toes, unchanged.  DP pulse not dopplerable on right, DP on
   left and PT bilaterally dopplerable.
   307 K/uL
   9.7 g/dL
   102 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.3 mEq/L
   24 mg/dL
   107 mEq/L
   141 mEq/L
   30.7 %
   8.2 K/uL
        [image002.jpg]
                             [**2183-2-21**]  07:00 PM
                             [**2183-2-22**]  12:04 AM
                             [**2183-2-22**]  05:27 AM
                             [**2183-2-22**]  01:09 PM
                             [**2183-2-22**]  09:33 PM
                             [**2183-2-23**]  03:45 AM
                             [**2183-2-23**]  03:06 PM
                             [**2183-2-24**]  03:47 AM
   WBC
   9.7
   8.2
   8.2
   Hct
   35.7
   33.1
   33.7
   34.2
   34.7
   30.9
   32.5
   30.7
   Plt
   [**Telephone/Fax (3) 13527**]95
   307
   Cr
   0.8
   0.9
   1.0
   1.0
   Glucose
   122
   106
   102
   Other labs: PT / PTT / INR:12.8/23.0/1.1, Ca++:8.9 mg/dL, Mg++:2.1
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Ms [**Known lastname 13471**] is a 85 year-old female with hypertension, PVD, complete
   block s/p pacemaker placement, and an ischemic right leg s/p
   thrombectomy and RLE angiogram complicated by a small perforation being
   monitored in the CCU for hematoma formation or possible compartment
   syndrome.
   # Ischemic R foot s/p thrombectomy and RLE angiogram with small
   performation:
   Vascular surgery has been consulted.  Her anticoagulation with heparin
   had been reversed with protamine.  Her initial Hct 35.  She denies any
   pain currently.  Hct now stable at 30 but no worsening signs on exam,
   no signs of compartment syndrome.
   - Active type and screen.
   - trend Hct daily and monitor for compartment syndrome
   - Appreciate vascular surgery consult, will f/u recs.
   - Hold off anticoagulation currently.
   - Continue plavix 75 mg po daily.
   - PT/OT
   # NSTEMI/Demand Ischemia:
   Patient was reported to have elevated CEs at the OSH, however her CK
   here was normal and her trop was 0.03.  She has no history of chest
   pain, but does have severe PVD which makes the likelihood of CAD high.
   She has had no previous catheterizations in our system.
   - Defer workup for possible CAD to primary floor Cardiology
   team/outpatient setting once her acute situation has resolved.
   - Will continue the B-blocker and ASA which was started here by the
   floor Cardiology team unless she has evidence of bleeding.
   # PUMP/Hypertension:  The patient appears euvolemic.
   - Continue home Amlodipine 5mg PO daily.
   - Will continue holding her home lasix for now.
   # RHYTHM: She had complete heart block s/p pacemaker placement.
   Admission EKG showed V-paced rhythm.
   - Monitor on telemetry.
   # Tobacco use:
   - Smoking cessation counseling.
   ICU Care
   20 Gauge - [**2183-2-21**] 06:15 PM
   Prophylaxis:
   DVT:  ambulation
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  to floor